US06211215B1
In substantially the same manner as in Working Example 33, 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate was allowed to react with tetrazole, and the reaction mixture was subjected to extraction. The extract was subjected to a silica gel column chromatography. From the fraction eluted with ethyl acetate-hexane (1:1, v/v), 2-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2H-tetrazole was obtained. The yield was 41%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 97-98° C.

reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
reactant | tetrazole | N1N=NN=C1 | CH2N4
product | 2-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2H-tetrazole | yield was 41% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1N=CN=N1 | C22H21N5O2
